US08859555B2
Trimethylsulfoxonium iodide (0.62 g, 2.82 mmol) was added in portions to a solution of t-BuOK (0.32 g, 2.82 mmol) in dry DMSO (5 mL). After 10 min a solution of 1-(benzyloxy)-4-[(E)-2-nitrovinyl]benzene (0.60 g, 2.35 mmol) in DMSO (5 mL) was transferred via canula and the mixture was stirred at room temperature for 6 h. The reaction was poured over water (10 mL) and extracted with Et2O (3×10 mL); the organic layers were washed with brine (2×15 mL), dried over anhydrous Na2SO4 and filtered. After removal of the solvent, the residual orange oil was purified by column chromatography on silica gel (5% EtOAc/hexanes) affording 0.16 g of 1-(benzyloxy)-4-[(trans)-2-nitrocyclopropyl]benzene[Rf=0.5 (20% EtOAc/hexanes), white solid, 26% yield].

reactant | Trimethylsulfoxonium iodide | 2.82 mmol, 0.62 g | [I-].C[S+](=O)(C)C
reactant | t-BuOK | 2.82 mmol, 0.32 g | CC(C)(C)[O-].[K+]
reactant | 1-(benzyloxy)-4-[(E)-2-nitrovinyl]benzene | 2.35 mmol, 0.60 g | C(C1=CC=CC=C1)OC1=CC=C(C=C1)\C=C\[N+](=O)[O-] | C15H13NO3
reactant | water | 10 mL | O | H2O
solvent | DMSO | 5 mL | CS(=O)C | C2H6OS
solvent | DMSO | 5 mL | CS(=O)C | C2H6OS
product | 1-(benzyloxy)-4-[(trans)-2-nitrocyclopropyl]benzene | 0.16 g, 26% yield | C(C1=CC=CC=C1)OC1=CC=C(C=C1)[C@H]1[C@@H](C1)[N+](=O)[O-] | C16H15NO3
